US05763437
To a suspension of N-[(3RS)-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-3-yl ]-N'-(3-methylphenyl)urea (5.71 g) in a mixture of ethanol (57 ml) and THF (43 ml) was added 1N aqueous sodium hydroxide solution (47 ml) under stirring at ambient temperature. The mixture was stirred under the same condition for 1 hour and the organic solvent was removed in vacuo. The residual aqueous solution was acidified with 6N aqueous hydrochloric acid and extracted with ethyl acetate twice. The combined extract was washed with water twice and dried over magnesium sulfate. Removal of the solvent gave an amorphous mass, which was triturated in a mixture of methanol and diisopropyl ether and collected by filtration to afford N-[(3RS)-1-carboxymethyl-5-(2-fluorophenyl)-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea (5.21 g) as a white crystalline powder, which was used in a following reaction step without further purification.

reactant | N-[(3RS)-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-3-yl ]-N'-(3-methylphenyl)urea | 5.71 g | C(C)OC(=O)CN1C(C(N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)NC2=CC(=CC=C2)C)=O | C27H25FN4O4
reactant | sodium hydroxide | 1N, 47 ml | [OH-].[Na+]
solvent | ethanol | 57 ml | C(C)O | C2H6O
solvent | THF | 43 ml | C1CCOC1 | C4H8O
product | N-[(3RS)-1-carboxymethyl-5-(2-fluorophenyl)-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea | 5.21 g | C(=O)(O)CN1C(C(N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)NC2=CC(=CC=C2)C)=O | C25H21FN4O4
